US05739328
2-Amino-4-methoxy-6-trifluoromethyl-1,3,5-triazine
56.6 g (0.5 mol) of calcium chloride (98%, powdered) and 210 g (2.5 mol) of N-cyanoguanidine are initially introduced into 2 l of methanol. The mixture is heated with stirring to reflux temperature and stirred under reflux for one hour, whereupon a homogeneous solution is obtained. The mixture is then cooled to room temperature and 640 g (5.0 mol) of methyl trifluoroacetate and then, in the course of 25 minutes, 450 g (2.5 mol) of a solution of sodium methoxide (30% by weight in methanol) are added, whereupon a white precipitate deposits. After heating under reflux for 2 hours, the mixture is cooled to room temperature and a pH of about 6 is set by addition of conc. hydrochloric acid. The methanol is then distilled off, about 2 l of water are added little by little, and the deposited, finely crystalline white crystals are separated off and dried in vacuo.

reactant | calcium chloride | 0.5 mol, 56.6 g | [Cl-].[Ca+2].[Cl-]
reactant | N-cyanoguanidine | 2.5 mol, 210 g | C(#N)NC(=N)N | C2H4N4
reactant | methyl trifluoroacetate | 5.0 mol, 640 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 l | CO | CH4O
product | 2-Amino-4-methoxy-6-trifluoromethyl-1,3,5-triazine | NC1=NC(=NC(=N1)OC)C(F)(F)F | C5H5F3N4O
